2197-07-11 11:30:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   HPI:
   24 Hour Events:
 EEG - At [**2197-7-10**] 08:46 AM
 RADIATION THERAPY - At [**2197-7-10**] 02:08 PM
   Radiation therapy mapping done in [**Hospital Ward Name 2009**] 5. Plan for radiation at 1530
   Mental status improved, approaching recent baseline (prior to
   admission).
   More awake today, eyes open, answering questions (with one word
   answers, occasionally appropriate).  Moves left hand and lower arm,
   grabbing, and slight movement of left foot (not against gravity).
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2197-7-10**] 08:00 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2197-7-11**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   somnulant
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2197-7-11**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 68 (55 - 112) bpm
   BP: 152/94(110) {152/77(97) - 218/107(125)} mmHg
   RR: 14 (6 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,528 mL
                                                                  2,244 mL
   PO:
             TF:
   IVF:
                                                                  3,458 mL
                                                                  2,229 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                  1,230 mL
   Urine:
                                                                  2,545 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    983 mL
                                                                  1,014 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): person, Movement: Purposeful, No(t)
   Sedated, Paralyzed, Tone: Decreased
   Labs / Radiology
   8.3 g/dL
   188 K/uL
   150 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.5 mEq/L
   12 mg/dL
   101 mEq/L
   139 mEq/L
   23.7 %
   5.8 K/uL
        [image002.jpg]
                             [**2197-7-9**]  02:05 PM
                             [**2197-7-10**]  03:50 AM
                             [**2197-7-11**]  03:19 AM
   WBC
   7.1
   5.8
   Hct
   26.7
   23.7
   Plt
   163
   188
   Cr
   0.3
   0.3
   TCO2
   31
   Glucose
   161
   150
   Other labs: PT / PTT / INR:14.3/38.8/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:9.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   ALTERED MENTAL STATUS  -- attributed to increased ICP and midline shift
   from left hemispheric CNS mass.  Hope to see improvement with
   treatment, including XRT, decadron, mannitol.  Monitor closely.
   LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID) -- CNS.  s/p
   Methotrexate and XRT. Plan for additional Rituxamab dose upon
   completion of XRT.  Palliative interventions.  Poor prognosis.  [**First Name8 (NamePattern2) 809**]
   [**Last Name (NamePattern1) 810**], MD, Neurological Oncology continues care as co-attending
   providing critical contribution to daily patient care.
   DEEP VENOUS THROMBOSIS (DVT), RIGHT UPPER EXTREMITY -- s/p IVC filter.
   Continues to receive Lovenox full does.  At risk for hemorrhage into
   CNS lesion, may consider d/c anticoagulation.
   ANEMIA, CHRONIC -- stable.  Monitor Hct, esp while receiving
   anticoagulation.
   HYPERTENSION -- acceptable, allow higher BP per Neurooncology.  Monitor
   BP.  No evidence for
   HYPERCALCEMIA  -- improved.  Monitor Ca++.
   NUTRITIONAL SUPPORT
 NPO pending XRT.  Poor status.  Would benefit
   from TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-7-9**] 10:17 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Medical history and hospital course reviewed in detail.  Patient has
   extensive CNS malignancy, which is non-curable, and highly resistent to
   all therapy (including chemotherapy) to date, now receiving palliative
   XRT in hopes of reducing size of CNS tumor.  In this context, with
   incurable progressive intracranial malignancy, and in the absence of
   significant medical co-morbidities, in the event of cardio-pulmonary
   arrest, likely reflects progression of intracranial process, without
   likelyhood of meaningful  clinical recovery, and medical resussitation
   would represent medical futility.  Thus, in the event of
   cardio-pulmonary arrest, will not perform CPR or intubation (i.e.
   DNR/DNI).  All plans will be continued as outlined in current notes,
   including medications, additional immuneomodulators, and XRT, with hope
   to allow pt. to return home.  Discussed with Dr. [**Last Name (STitle) 810**], who is in
   agreement.  This information was also discussed with the patient
   husband.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 619**], MD
   on:[**2197-7-11**] 15:06 ------

2197-07-12 11:13:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2197-7-11**] 10:00 AM
   More awake, alert, looking about her environment.
   Able to respond in one word answers.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-7-12**] 12:00 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2197-7-12**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2197-7-12**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 63 (60 - 98) bpm
   BP: 157/94(110) {150/83(99) - 183/105(121)} mmHg
   RR: 8 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,978 mL
                                                                  2,407 mL
   PO:
             TF:
   IVF:
                                                                  4,573 mL
                                                                  2,377 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,140 mL
                                                                  1,560 mL
   Urine:
                                                                  3,140 mL
                                                                  1,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,838 mL
                                                                    847 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///35/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Decreased, Moves left arm, grips with left hand
   >> right hand.  Wiggles left toes >>> right toes.
   Labs / Radiology
   8.3 g/dL
   174 K/uL
   131 mg/dL
   0.2 mg/dL
   35 mEq/L
   2.7 mEq/L
   9 mg/dL
   97 mEq/L
   139 mEq/L
   22.7 %
   4.4 K/uL
        [image002.jpg]
                             [**2197-7-9**]  02:05 PM
                             [**2197-7-10**]  03:50 AM
                             [**2197-7-11**]  03:19 AM
                             [**2197-7-11**]  04:40 PM
                             [**2197-7-11**]  11:47 PM
                             [**2197-7-12**]  03:32 AM
   WBC
   7.1
   5.8
   4.4
   Hct
   26.7
   23.7
   19.8
   21.4
   22.7
   Plt
   163
   188
   174
   Cr
   0.3
   0.3
   0.2
   TCO2
   31
   Glucose
   161
   150
   131
   Other labs: PT / PTT / INR:14.3/38.8/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.5 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR ([**2197-7-12**])  persistent opacification LLL
   Assessment and Plan
   ALTERED MENTAL STATUS -- overall improved, as pt. more awake.  Likely
   attributed to increased intracranial pressure secondary to CNS mass.
   LYMPHOMA -- CNS, progressive, non-curative.  Continue XRT, mannitol,
   decadron (high dose).  Dr. [**First Name8 (NamePattern2) 809**] [**Last Name (NamePattern1) 810**] serving as Co-Attending, providing
   key care.
   PNEUMONIA -- LLL infiltrate, suspect aspiration.  Remains at risk for
   pneumonia, as fevers may be masked by high dose steroids.  Low
   threshold for empirical antimicrobials.
   DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY -- on Lovenox.  Monitor
   closely.  At risk for bleeding.
   ANEMIA, CHRONIC -- stable
   HYPERTENSION -- monitor.
   HYPOMAGNESEMIA
 replete to WNL
   HYPOKALEMIA
 replete to >4.0
   NUTRIONAL SUPPORT -- place feeding tube and initiate TF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-7-9**] 10:17 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2197-07-13 11:22:00 Physician Attending Progress Note
Chief Complaint: Weakness, somnulance
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2197-7-12**] 10:28 AM
   More awake, calling out.  Indicating discomfort (diffuse).
   NGT placed for TF.
   Speaking out, short phrases, appropriate at times.
   Mannitol decreased.
   No seizures.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-7-13**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes:  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, Delirious, No(t) Daytime
   somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-24**] Mild
   Pain location: Diffuse
   Flowsheet Data as of  [**2197-7-13**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 77 (57 - 101) bpm
   BP: 155/89(105) {142/80(96) - 180/107(119)} mmHg
   RR: 15 (7 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  5,250 mL
                                                                  2,686 mL
   PO:
             TF:
                                                                    100 mL
                                                                    463 mL
   IVF:
                                                                  5,120 mL
                                                                  2,223 mL
   Blood products:
   Total out:
                                                                  4,175 mL
                                                                  1,450 mL
   Urine:
                                                                  4,175 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,075 mL
                                                                  1,236 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   189 K/uL
   191 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.4 mEq/L
   11 mg/dL
   99 mEq/L
   137 mEq/L
   26.1 %
   3.8 K/uL
        [image002.jpg]
                             [**2197-7-9**]  02:05 PM
                             [**2197-7-10**]  03:50 AM
                             [**2197-7-11**]  03:19 AM
                             [**2197-7-11**]  04:40 PM
                             [**2197-7-11**]  11:47 PM
                             [**2197-7-12**]  03:32 AM
                             [**2197-7-12**]  11:24 AM
                             [**2197-7-12**]  06:08 PM
                             [**2197-7-13**]  04:03 AM
   WBC
   7.1
   5.8
   4.4
   3.8
   Hct
   26.7
   23.7
   19.8
   21.4
   22.7
   26.1
   Plt
   163
   188
   174
   189
   Cr
   0.3
   0.3
   0.2
   0.2
   0.3
   0.2
   TCO2
   31
   Glucose
   161
   150
   131
   138
   147
   191
   Other labs: PT / PTT / INR:14.3/38.8/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Increased intracranial pressure.
   SOMNULANCE -- improving.  Improving as ICP reduced.  Monitor Neurology
   exam.
   LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID) -- CNS mass --> edema
   and herniation; palliative therapy.  Continue XRT, mannitol, decadron.
   Poor prognosis.
   DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY -- lovenox,  monitor.
   ANEMIA, CHRONIC -- monitor.  Maintain >21.
   HYPERTENSION -- stable.  Monitor for increased MAP.
   NUTRITIONAL SUPPORT -- TF.
   PAIN MANAGEMENT -- low dose narcotics.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2197-7-13**] 10:31 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2197-7-9**] 10:17 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2197-07-14 11:59:00 Physician Attending Progress Note
Chief Complaint: increased intracranial pressure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2197-7-13**] 10:32 AM
   Continues to demonstrate daily improvement in mental status.  Able to
   speak in longer sentences, mostly appropriate, predominately expressive
   aphasia.
   Frequently calling out or crying out, at times seemingly in pain.
   Verbal paraphrasing, expressive aphasia.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Dysphasia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2197-7-14**] 07:30 AM
   Pantoprazole (Protonix) - [**2197-7-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2197-7-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-28**] Moderate
   Pain location: Diffuse body pain
   Flowsheet Data as of  [**2197-7-14**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 89 (74 - 125) bpm
   BP: 147/101(113) {117/67(78) - 166/101(115)} mmHg
   RR: 7 (7 - 14) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  5,944 mL
                                                                  3,077 mL
   PO:
             TF:
                                                                  1,194 mL
                                                                    807 mL
   IVF:
                                                                  4,750 mL
                                                                  2,210 mL
   Blood products:
   Total out:
                                                                  3,705 mL
                                                                  2,790 mL
   Urine:
                                                                  3,705 mL
                                                                  2,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,239 mL
                                                                    291 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Decreased
   Labs / Radiology
   8.9 g/dL
   193 K/uL
   200
   0.3 mg/dL
   27 mEq/L
   3.8 mEq/L
   12 mg/dL
   101 mEq/L
   135 mEq/L
   26.1 %
   4.3 K/uL
        [image002.jpg]
                             [**2197-7-11**]  03:19 AM
                             [**2197-7-11**]  04:40 PM
                             [**2197-7-11**]  11:47 PM
                             [**2197-7-12**]  03:32 AM
                             [**2197-7-12**]  11:24 AM
                             [**2197-7-12**]  06:08 PM
                             [**2197-7-13**]  04:03 AM
                             [**2197-7-13**]  04:07 PM
                             [**2197-7-14**]  04:21 AM
                             [**2197-7-14**]  06:00 AM
   WBC
   5.8
   4.4
   3.8
   4.3
   Hct
   23.7
   19.8
   21.4
   22.7
   26.1
   24.4
   26.1
   Plt
   188
   174
   189
   193
   Cr
   0.3
   0.2
   0.2
   0.3
   0.2
   0.3
   Glucose
   150
   131
   138
   147
   191
   203
   200
   Other labs: PT / PTT / INR:12.3/27.8/1.0, Lactic Acid:0.8 mmol/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR ([**2197-7-14**]) obscured left hemidiaphragm.
   Assessment and Plan
   INCREASED INTRACRANIAL PRESSURE -- attributed to CNS lymphoma mass.
   Clinical improvement with current course of therapy (XRT, decadron,
   mannitol).  Continue as planned per Dr. [**Last Name (STitle) 810**].
   LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID) -- palliative care.
   Head CT to document radiographic improvement.
   DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY -- PICC associated.
   Lovenox
   ANEMIA, CHRONIC
 stable.  Monitor Hct.
   HYPERTENSION  -- stable.  Monitor.
   HYPERGLYCEMIA
 likely due to high dose steroids.  Monitor glucose,
   maintain <150.
   PAIN, DIFFUSE -- responds to morphine.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2197-7-14**] 02:16 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-7-9**] 10:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill